US04005099
In the manner given in Example 3, 2',5-difluoro-2-[2-[(dimethylamino)methyl]-5-hydroxymethylimidazol-1-yl]-benzophenone, triphenylphosphine, phthalimide and thereafter diethyl azodicarboxylate are reacted together to give N-[[1-[4-fluoro-2-(o-fluorobenzoyl)phenyl]-2-[(dimethylamino)methyl]imidazol-5-yl]methyl]phthalimide.

reactant | 2',5-difluoro-2-[2-[(dimethylamino)methyl]-5-hydroxymethylimidazol-1-yl]-benzophenone | FC1=C(C=CC=C1)C(C1=C(C=CC(=C1)F)N1C(=NC=C1CO)CN(C)C)=O | C20H19F2N3O2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | N-[[1-[4-fluoro-2-(o-fluorobenzoyl)phenyl]-2-[(dimethylamino)methyl]imidazol-5-yl]methyl]phthalimide | FC1=CC(=C(C=C1)N1C(=NC=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN(C)C)C(C2=C(C=CC=C2)F)=O | C28H22F2N4O3
